US07981903B2
A −40° C. solution of 2-fluoro-6-[(2-{[5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide (70 mg, 0.16 mmol) in THF (20 mL) was treated with a solution of bromoacetyl chloride (25 mg, 0.16 mmol) in THF (1 mL). After 5 min a 27% aqueous NH4OH solution was added and the reaction mixture was stirred at rt overnight. The resulting slurry was filtered and the solid washed with Et2O to obtain 2-fluoro-6-[(2-{[1-glycyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide as a grey solid (67 mg, 86%). 1H NMR (400 MHz, DMSO-d6) δ ppm 3.07-3.19 (m, 2H), 3.44, (s, 2H), 3.78 (s, 3H), 3.97-4.10 (m, 2H), 6.23, (s, 1H), 6.82-7.04 (m, 3H), 7.27-7.41 (m, 1H), 7.60 (s, 1H), 8.02 (s, 1H), 8.10 (s, 1H), 8.51 (d, J=7.61 Hz, 1H), 8.67 (s, 1H), 10.53 (s, 1H), 11.33 (s, 1H) a CH2 signal with 2 protons is missing, may overlap with water peak in sample; ESIMS (M+H)+=491.26.

reactant | 2-fluoro-6-[(2-{[5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide | 0.16 mmol, 70 mg | FC1=C(C(=O)N)C(=CC=C1)NC1=C2C(NC(=N1)NC1=C(C=C3CCNC3=C1)OC)=NC=C2 | C22H20FN7O2
reactant | bromoacetyl chloride | 0.16 mmol, 25 mg | BrCC(=O)Cl | C2H2BrClO
reactant | NH4OH | [NH4+].[OH-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-fluoro-6-[(2-{[1-glycyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide | 67 mg, 86% | FC1=C(C(=O)N)C(=CC=C1)NC1=C2C(NC(=N1)NC1=C(C=C3CCN(C3=C1)C(CN)=O)OC)=NC=C2 | C24H23FN8O3
